* F:\Dropbox\GitHub\ltspice2matlab\testdata\text\op\op.asc
Q1 Uc1 Ue1 Ue12 0 BC546B
Q2 Uc2 Ue2 Ue12 0 BC546B
I1 Ue12 Vee 10m
R1 Vcc Uc1 1k5
R2 Vcc Uc2 1k5
Vc Vcc 0 15
Ve 0 Vee 15
E1 Ue1 0 Ued 0 0.5
E2 Ue2 0 0 Ued 0.5
V1 Ued 0 SINE(0 10m 1k) AC 1
.model NPN NPN
.model PNP PNP
.lib C:\Users\Adriano Ruseler\Documents\LTspiceXVII\lib\cmp\standard.bjt
.op
.backanno
.end
